US08791107B2
(R)-2-(2-(3-(hydroxymethyl)phenyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide
A mixture of (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide (PREPARATION x26, 50 mg, 0.131 mmol), 3-(hydroxymethyl)phenylboronic acid (29.8 mg, 0.196 mmol), tetrakis(triphenylphospine)palladium(0) (15.13 mg, 0.013 mmol) and sodium carbonate (27.8 mg, 0.262 mmol) in 1,4-dioxane (0.5 mL) and H2O (0.25 mL) was heated to 120° C. in a microwave for 1 hour. After cooling to room temperature, the reaction mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (amine-functionalized silica, 0-10% MeOH gradient in CHCl3) to afford the title compound as an off-white solid (47.2 mg, 0.104 mmol, 79%). 1H NMR (400 MHz, DMSO-d6) δ 1.06-1.24 (m, 2H), 1.47-1.71 (m, 3H), 2.92-3.03 (m, 3H), 3.12-3.37 (m, 5H), 3.50-3.67 (m, 2H), 3.73-3.93 (m, 4H), 3.98-4.07 (m, 2H), 4.50-4.60 (m, 3H), 5.21 (t, J=5.81 Hz, 1H), 7.26-7.38 (m, 2H), 7.50 (s, 1H), 8.06-8.11 (m, 2H), 8.18 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C24H31N5O4, 453.24. found 454.4.

reactant | (R)-2-(2-chloro-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide | 0.131 mmol, 50 mg | ClC1=NC=2N3[C@H](CN(C2C=N1)CC(=O)NCC1CCOCC1)COCC3 | C17H24ClN5O3
reactant | 3-(hydroxymethyl)phenylboronic acid | 0.196 mmol, 29.8 mg | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | sodium carbonate | 0.262 mmol, 27.8 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 0.25 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-(2-(3-(hydroxymethyl)phenyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-5(6H)-yl)-N-((tetrahydro-2H-pyran-4-yl)methyl)acetamide | 0.104 mmol, 47.2 mg, 79% | OCC=1C=C(C=CC1)C1=NC=2N3[C@H](CN(C2C=N1)CC(=O)NCC1CCOCC1)COCC3 | C24H31N5O4
